US08541407B2
A solution of N-(2-chloropyridin-3-yl)-5-methyl-2-nitrobenzamide (5.07 g, 17.38 mmol), ammonium chloride (5.30 g, 99.1 mmol) in methanol (170 mL) was treated with zinc dust (8.1 g, 123.9 mmol) and stirred for 1 hour at room temperature. The mixture was diluted with ethyl acetate (300 mL) then filtered and concentrated under reduced pressure. The crude product was dissolved in refluxing methanol (350 mL) then cooled to room temperature and treated with water (300 mL) to give a white precipitate which was filtered, washed with water (50 mL) and dried under high vacuum at 60° C. to give 2-amino-N-(2-chloropyridin-3-yl)-5-methylbenzamide (3.3 g). M.p.=187-190° C.; 400 MHz 1H NMR (DMSO-d6) δ: 9.87 (s, 1H), 8.25 (dd, J=2.0, 4.8 Hz, 1H), 8.02 (dd, J=2.0, 8.0 Hz, 1H), 7.52 (s, 1H), 7.45 (dd, J=4.8, 8.0 Hz, 1H), 7.04 (dd, J=2.0, 8.8 Hz, 2H), 6.67 (d, J=8.4 Hz, 1H), 6.21 (s, 2H), 2.19 (s, 3H); LCMS [M+H]: 262.

reactant | N-(2-chloropyridin-3-yl)-5-methyl-2-nitrobenzamide | 17.38 mmol, 5.07 g | ClC1=NC=CC=C1NC(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O | C13H10ClN3O3
reactant | ammonium chloride | 99.1 mmol, 5.30 g | [Cl-].[NH4+]
solvent | methanol | 170 mL | CO | CH4O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 123.9 mmol, 8.1 g | [Zn] | Zn
product | 2-amino-N-(2-chloropyridin-3-yl)-5-methylbenzamide | 3.3 g | NC1=C(C(=O)NC=2C(=NC=CC2)Cl)C=C(C=C1)C | C13H12ClN3O
